US05354913
To a solution of 2,3,5-trimethylphenol (0.80 g, 5.9 mmol), methyl (S)-7-(4-fluorophenyl)-7-hydroxyheptanoate (0.30 g, 1.2 nunol) and triphenylphosphine (0.46 g, 1.8 mmol) in 1,2-dichloroethane (20 ml) was added at 10° C. a solution of 95% DEAD (0.54 ml) in 1,2-dichloroethane (5 ml) taking 30 minutes. The mixture was stirred for one hour at the same temperature range, then the solvent was distilled off under reduced pressure. The residue was subjected to a silica gel column chromatography to give 0.15 g of methyl (R)-7-(4-fluorophenyl)-7-(2-hydroxy-3,4,6-trimethylphenyl)heptanoate.

reactant | 2,3,5-trimethylphenol | 5.9 mmol, 0.80 g | CC1=C(C=C(C=C1C)C)O | C9H12O
reactant | methyl (S)-7-(4-fluorophenyl)-7-hydroxyheptanoate | 0.30 g | FC1=CC=C(C=C1)[C@H](CCCCCC(=O)OC)O | C14H19FO3
reactant | triphenylphosphine | 1.8 mmol, 0.46 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | 0.54 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | 1,2-dichloroethane | 20 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 5 ml | ClCCCl | C2H4Cl2
product | methyl (R)-7-(4-fluorophenyl)-7-(2-hydroxy-3,4,6-trimethylphenyl)heptanoate | 0.15 g | FC1=CC=C(C=C1)[C@@H](CCCCCC(=O)OC)C1=C(C(=C(C=C1C)C)C)O | C23H29FO3
